US08604034B2
8-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.14 mmol), zinc cyanide (24 mg, 0.20 mmol) and palladium(0) tetrakistriphenylphosphine (32 mg, 0.03 mmol) were suspended in dry DMF (2.5 mL) in a microwave vial flushed with argon. The mixture was heated in the microwave at 160° C. for 20 minutes. Water was added and the mixture extracted with CH2Cl2. The organic layers were dried (MgSO4), filtrated and concentrated in vacuo. The resulting residue was purified by flash chromatography (Biotage SP4 12 g cartridge, gradient 0-10% MeOH in CH2Cl2) to give 10a-(4-methoxyphenyl)-5-oxo-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazine-8-carbonitrile as a brown solid (45 mg, yield 71%) ESI-MI m/z [M+H]+ 309.1.

reactant | 8-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.14 mmol, 50 mg | BrC1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)OC | C16H16BrN3O2
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.20 mmol, 24 mg | [C-]#N.[Zn+2].[C-]#N
product | 10a-(4-methoxyphenyl)-5-oxo-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazine-8-carbonitrile | 45 mg, yield 71% | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)C#N)=O)CCN2 | C17H16N4O2
